US08022223B2
Step A: Preparation of ethyl 5H-pyrrolo[3,4-b]pyridine-6(7H)-carboxylate N-oxide:
mCPBA (7.3 g, 30 mmol) was added into a solution of ethyl 5H-pyrrolo[3,4-b]pyridine-6(7H)-carboxylate (5 g, 26 mmol) in CH2Cl2 (200 mL) and stirred for 2 hours. The reaction was poured into water and extracted with CH2Cl2. The organic layer was washed with aqueous sodium bisulfate, NaHCO3 and brine, dried with Na2SO4, filtered and concentrated to afford the title compound (4 g, 74% yield) as a white solid.

reactant | mCPBA | 30 mmol, 7.3 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | ethyl 5H-pyrrolo[3,4-b]pyridine-6(7H)-carboxylate | 26 mmol, 5 g | N1=C2C(=CC=C1)CN(C2)C(=O)OCC | C10H12N2O2
reactant | water | O | H2O
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | ethyl 5H-pyrrolo[3,4-b]pyridine-6(7H)-carboxylate N-oxide | 4 g, 74% yield | [N+]1(=C2C(=CC=C1)CN(C2)C(=O)OCC)[O-] | C10H12N2O3
